US08008505B2
27.2 [rac]-4-{[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxymethyl}-benzoic acid
In analogy to the procedure described in example 7.2, [rac]-4-{[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxymethyl}-benzoic acid ethyl ester was treated with 1 N aqueous lithium hydroxide solution in THF and MeOH to give the title compound as colorless foam. MS: m/e=511.3 [M+H+].

reactant | [rac]-4-{[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxymethyl}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C(OC)(C1CCCCC1)C=1N(N=C2C=C(C(=CC12)F)F)C1=CC=C(C=C1)Cl)=O | C30H29ClF2N2O3
reactant | lithium hydroxide | 1 N | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [rac]-4-{[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxymethyl}-benzoic acid | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(C1=CC=C(C(=O)O)C=C1)(OC)C1CCCCC1)F)F | C28H25ClF2N2O3
